US06583135B2
10-(4-Chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Dihydrochloride
3-benzoyl-10-(4-chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole and KOH (3.0 g) were stirred in ethylene glycol (10 ml) and the reaction mixture was heated at 170° C. for 1 h. The reaction mixture was cooled to RT, partitioned between H2O and EtOAc, separated, dried over MgSO4, filtered and concentrated. The product was dissolved in EtOAc and HCl (4 ml, 1N in Et2O) was added. The precipitate was filtered and recrystallized from EtOAc/MeOH to give the title compound as a solid: 1H NMR (DMSO-d6) δ 3.09, 3.18, 3.30, 4.48, 6.78, 7.08, 7.32, 7.38, 7.52, 9.60, 11.3. HRMS (FAB) calcd for C18H17ClN2 (MH+) 297.1158, found 297.1137.

reactant | 3-benzoyl-10-(4-chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=CC=C(C=C1)Cl | C25H21ClN2O
reactant | KOH | 3.0 g | [OH-].[K+]
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
product | 10-(4-Chlorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | InChI=1S/C18H17ClN2.2ClH/c19-13-6-4-12(5-7-13)14-2-1-3-17-18(14)15-8-10-20-11-9-16(15)21-17;;/h1-7,20-21H,8-11H2;2*1H
